US20010000513A1
To a stirred mixture of (4-methylphenyl)boronic acid (0.818 g, 0.00602 mol) and 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester (1.3556 g, 0.00500 mol) in toluene (10 mL) was added tetrakis(triphenylphosphine)-palladium(0) (0.173 g, 0.000150 mol) and 2.0 M aqueous sodium carbonate (5.0 mL, 0.010 mol), and the mixture was heated at reflux under nitrogen for 12 hours and allowed to cool. The mixture was diluted with toluene and dichloromethane (10 mL/10 mL), and filtered through a pad of Celite. The Celite was washed with additional toluene and dichloromethane. Filtrate and washings were combined and washed with 2.0 M aqueous sodium carbonate, brine, 3% aqueous ammonium hydroxide, water, and brine. The organics were dried (Na2SO4) and rotary evaporated. The residue was dissolved in chloroform and purified by column chromatography on silica gel (144 g, 230-400 mesh), eluting with hexanes-acetone (6:1, 17×125 mL) to give 0.98 g of 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a white solid; mp 121-122° C.

reactant | (4-methylphenyl)boronic acid | 0.00602 mol, 0.818 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester | 0.00500 mol, 1.3556 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
reactant | sodium carbonate | 0.010 mol, 2.0 M, 5.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.000150 mol, 0.173 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.98 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C18H18O3
